US08877779B2
To a solution of chroman-4-ylmethyl methanesulfonate in ethanol (650 ml) was added potassium cyanide (9.23 g), and the mixture was stirred with heating under reflux for 15 hr. After cooling to room temperature, the mixture was concentrated under reduced pressure, water was added to the obtained residue, and the mixture was extracted with ethyl acetate. The extract was washed with water and saturated brine, dried over magnesium sulfate, and concentrated to give 3-chroman-4-ylpropionitrile.

reactant | chroman-4-ylmethyl methanesulfonate | CS(=O)(=O)OCC1CCOC2=CC=CC=C12 | C11H14O4S
reactant | potassium cyanide | 9.23 g | [C-]#N.[K+]
reactant | ethanol | 650 ml | C(C)O | C2H6O
product | 3-chroman-4-ylpropionitrile | O1CCC(C2=CC=CC=C12)CCC#N | C12H13NO
